US05045552
4-(3-Methoxypropoxy)-2-methylpyridine 1-oxide
5.85 g (0.065 mol) of methoxypropanol was dissolved in 60 ml of dimethyl sulfoxide to obtain a solution. 2.6 g (0.065 mol) of sodium hydride was added to this solution at a room temperature in a nitrogen atmosphere. The obtained mixture was stirred at 60° C. for 0.5 hour. A solution of 4.66 g (0.0325 mol) of 4-chloro-2-methylpyridine 1-oxide in 20 ml of dimethyl sulfoxide was dropwise added to the mixture under cooling with ice. The mixture was stirred at 40° C. for one hour. After the completion of the reaction, the reaction mixture was concentrated under a reduced pressure to obtain a solid. 200 ml of water was added to this solid. The obtained mixture was extracted with chloroform and the obtained extract was dried over magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure and purified by silica gel column chromatography (ethyl acetate/methanol) to obtain 4.09 g of the title compound.

reactant | methoxypropanol | 0.065 mol, 5.85 g | COC(CC)O | C4H10O2
reactant | sodium hydride | 0.065 mol, 2.6 g | [H-].[Na+]
reactant | 4-chloro-2-methylpyridine 1-oxide | 0.0325 mol, 4.66 g | ClC1=CC(=[N+](C=C1)[O-])C | C6H6ClNO
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 4-(3-Methoxypropoxy)-2-methylpyridine 1-oxide | 4.09 g | COCCCOC1=CC(=[N+](C=C1)[O-])C | C10H15NO3
